US09023852B2
a) 4-(2-Bromo-ethyl)-2-methoxy-pyridine
A mixture of 2-(2-methoxypyridin-4-yl)ethanol (commercially available) (700 mg, 4.57 mmol,), CBr4 (2.27 g, 6.85 mmol) and triphenylphosphine (1.8 g, 6.85 mmol) in 75 mL toluene was stirred at RT for 64 h. The mixture was filtered over a silica-plug and washed with toluene. The filtrate concentrated under vacuum to yield the crude product. The residue was purified by column chromatography on silica eluting with a gradient formed from heptane and EtOAc to yield, after evaporation of the product containing fraction, 624 mg (63%) of the title compound as colourless liquid. MS (m/e): 216.2 (MH+).

reactant | 2-(2-methoxypyridin-4-yl)ethanol | COC1=NC=CC(=C1)CCO | C8H11NO2
reactant | CBr4 | 6.85 mmol, 2.27 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 6.85 mmol, 1.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(2-Bromo-ethyl)-2-methoxy-pyridine | BrCCC1=CC(=NC=C1)OC | C8H10BrNO
